US05942530
A. Preparation of N-formyl-N-ethyl-p-hydroxyphenethylamine
To a suspension of 1,1'-carbonyldiimidazole (326 mmole, 52.81 g) in tetrahydrofuran (164 ml) cooled to 0° C., was added dropwise 96% formic acid (326 mmole, 14.99 g) over a 26 minute period. Reaction stirred at 0° C. for 30 minutes then a light suspension of N-ethyl-p-hydroxyphenethylamine (102 mmole, 16.88 g) in tetrahydrofuran (66 ml) was added over a 10 minute period. Reaction then stirred at 22° C. for 170 minutes before being treated with methanol (10 ml). After stirring for 90 minutes, reaction was concentrated in vacuo to an oil containing crystals. The mixture was taken up into methylene chloride and subjected to preparatory chromatography eluting with a gradient of 0 to 5% methanol:methylene chloride over a thirty-minute period. The fractions containing the title compound were combined, concentrated in vacuo to afford 13.46 g of an oil that slowly crystallizes out. Fractions containing title compound and impurities were resubjected to preparatory column chromatography under the same conditions described above to afford an additional 2.61 g of the title compound.

reactant | 1,1'-carbonyldiimidazole | 326 mmole, 52.81 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | formic acid | 326 mmole, 14.99 g | C(=O)O | CH2O2
reactant | N-ethyl-p-hydroxyphenethylamine | 102 mmole, 16.88 g | C(C)NCCC1=CC=C(C=C1)O | C10H15NO
reactant | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 164 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 66 ml | O1CCCC1 | C4H8O
product | N-formyl-N-ethyl-p-hydroxyphenethylamine | 13.46 g | C(=O)N(CC)CCC1=CC=C(C=C1)O | C11H15NO2
